US08497264B2
In a microwave vial, potassium phosphate (0.615 g, 2.90 mmol), bis[di-tert-butyl(4-dimethylaminophenyl)phosphine]dichloropalladium(II) (0.068 g, 0.097 mmol), 2-fluoropyridin-3-ylboronic acid (0.170 g, 1.208 mmol) and (R)-5-amino-2′-bromo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.349 g, 0.966 mmol) were suspended in dioxane (8 mL). Water (2 mL) was added, and argon gas was blown through the vessel, which was then sealed and heated in a 100° C. oil bath for 3 h. The reaction was concentrated to remove the dioxane. The residue was diluted with aqueous NH4Cl (15 mL) and the aqueous phase was extracted with 5% MeOH/DCM (3×33 mL). The organics were combined, washed with dilute brine (8 mL), dried over sodium sulfate and concentrated to afford crude (S)-5-amino-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol which was used directly in the next step.

reactant | potassium phosphate | 2.90 mmol, 0.615 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-fluoropyridin-3-ylboronic acid | 1.208 mmol, 0.170 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | (R)-5-amino-2′-bromo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 0.966 mmol, 0.349 g | NC1=N[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)O)COC1 | C16H13BrN2O3
reactant | Water | 2 mL | O | H2O
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (S)-5-amino-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | NC1=N[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C(=NC=CC2)F)O)COC1 | C21H16FN3O3
